US03993773
0.684 g. Magnesium metal is covered with 2 ml. anhydrous tetrahydrofuran and 0.2 ml. 1,2-dibromoethane is added with stirring and heating. 1-Bromo-6-cyclopropylhexane (4.8 g.) and tetrahydrofuran (25 ml.) are added portionwise. An additional 0.207 ml. of 1,2-dibromethane is added and the reaction mixture refluxed for 3 hours. The solution is then maintained at 24°-28° while anhydrous carbon dioxide is bubbled through it for 11/2 hours. After stirring overnight under carbon dioxide, dry ether, water and 2N sulfuric acid are added until the pH is less than 7. The solution is extracted with ether and washed with water and brine, dried over calcium sulfate, filtered and the solvent removed to yield 7-cyclopropylheptanoic acid.

reactant | Magnesium | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 1-Bromo-6-cyclopropylhexane | 4.8 g | BrCCCCCCC1CC1 | C9H17Br
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 7-cyclopropylheptanoic acid | C1(CC1)CCCCCCC(=O)O | C10H18O2
